US05929085
(c) 8-Nitro-1,3,4,6,11,11a-hexahydro-2H-benzo[b]quinolizine hydrochloride
To a solution of 8-nitro-1,3,4,6,11,11a-hexahydro-2H-benzo[b]quinolizin-6-one (4.18 g, 17.0 mmol) in anhydrous THF (50 ml) was added 1.0M borane in THF (50 ml). The reaction mixture was heated at reflux for 18 h. After cooling to room temperature, the excess borane was quenched by the addition of methanol and 6M hydrochloric acid (6 ml) and the solution was heated for 2 h. The solvent was removed in vacuo and the residue was taken up in water. The resulting solution was basified with sodium hydroxide and extracted twice with dichloromethane. The dried (magnesium sulfate) organic phase was concentrated to give an oil which was immediately taken up in ethanol (60 ml). Hydrochloric acid in ethanol was added until the solution was distinctly acidic and the solution was stirred for several hours at ambient temperature. The precipitate was collected, washed with ethanol, and air-dried to give the title compound as a white solid (3.03 g, 70%), m.p. 245-7° C. (dec.).

reactant | 8-nitro-1,3,4,6,11,11a-hexahydro-2H-benzo[b]quinolizin-6-one | 17.0 mmol, 4.18 g | [N+](=O)([O-])C1=CC2=C(CC3CCCCN3C2=O)C=C1 | C13H14N2O3
reactant | borane | 1.0M | B | BH3
reactant | Hydrochloric acid | Cl | ClH
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 8-Nitro-1,3,4,6,11,11a-hexahydro-2H-benzo[b]quinolizine hydrochloride | 3.03 g, 70% | Cl.[N+](=O)([O-])C1=CC2=C(CC3CCCCN3C2)C=C1 | InChI=1S/C13H16N2O2.ClH/c16-15(17)13-5-4-10-7-12-3-1-2-6-14(12)9-11(10)8-13;/h4-5,8,12H,1-3,6-7,9H2;1H
